US07776897B2
Thionyl chloride (2.1 ml) was added dropwise to a chloroform (30 ml) solution of (3-chloro-4-methyl-2-thienyl)methanol (2.34 g), followed by stirring at room temperature for 30 minutes. The reaction solution and chloroform were added to a saturated aqueous sodium hydrogen carbonate solution and then the organic layer was separated. Furthermore, the organic layer washed with brine and, after drying over anhydrous sodium sulfate and filtration, the solvent was removed by evaporation under reduced pressure to obtain 3-chloro-2-(chloromethyl)-4-methylthiophene. Sodium cyamide (1.06 g) and water (15 ml) were added to an acetone (9 ml) solution of 3-chloro-2-(chloromethyl)-4-methylthiophene, followed by stirring at 60° C. for 1 hour. After water and ether were added to the reaction solution, the organic layer was separated. Furthermore, the organic layer washed with brine and, after drying over anhydrous sodium sulfate and filtration, the solvent was removed by evaporation under reduced pressure. The resulting crude product was purified by column chromatography (hexane:ethyl acetate=9:1) to obtain 1.33 g of (3-chloro-4-methyl-2-thienyl)acetonitrile (yellow oil).

reactant | Thionyl chloride | 2.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (3-chloro-4-methyl-2-thienyl)methanol | 2.34 g | ClC1=C(SC=C1C)CO | C6H7ClOS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-chloro-2-(chloromethyl)-4-methylthiophene | ClC1=C(SC=C1C)CCl | C6H6Cl2S
